US06403595B1
To a solution of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (5.0 g) and triethylamine (6.792 g) in dichloromethane (80 ml) was added dropwise at 0° C. a solution of 2-chloroethanesulfonyl chloride (4.11 g) in dichloromethane (20 ml), and the mixture was stirred at 0° C. for 30 minutes. The reaction solution was diluted with dichloromethane, washed with water, citric acid solution, sodium bicarbonate solution and brine, dried and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless amorphous of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-vinylsulfonyl-2-piperazinone (3.99 g).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | triethylamine | 6.792 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 4.11 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-vinylsulfonyl-2-piperazinone | 3.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C=C)=O | C17H29N3O5S
